US08563575B2
3-Methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (600 mg) was added to a solution of 3-(4-hydroxyphenyl)-1,7-dimethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (725 mg) and potassium tert-butoxide (351 mg) in DMA (4 ml) at 20° C. The mixture was stirred at 150° C. under a dry atmosphere for 30 min. The reaction mixture was diluted with MeOH and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-50% EtOAc in hexane) to give 1,7-dimethyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (150 mg) as colorless crystals.

reactant | 3-Methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 600 mg | CN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C8H9N3O2S
reactant | 3-(4-hydroxyphenyl)-1,7-dimethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 725 mg | OC1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2C)C)=O | C14H13N3O2
reactant | potassium tert-butoxide | 351 mg | CC(C)([O-])C.[K+]
solvent | DMA | 4 ml | CC(=O)N(C)C | C4H9NO
solvent | MeOH | CO | CH4O
product | 1,7-dimethyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 150 mg | CN1C(N(C2=NC=CC(=C21)C)C2=CC=C(C=C2)OC2=NC=1C(=NC=CC1)N2C)=O | C21H18N6O2
